Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([O:3]/[C:4]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.46610813523
[H:6].[O:1][C:2]#[C:3][C:4][O:5]>>[O:1][C:2]#[C:3][C:4](=[O:5])[H:6],-0.765265417177
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]([C:2][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:3][H:4],2.8778323148
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.93964699306
[C:1]#[C:2][O:6][C:4](=[O:3])[H:5]>>[C:1]=[C:2]1[O:3][C:4]([H:5])[O:6]1,0.97217732749
[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.56573454351
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.93403393865
[C:1]#[C:2][O:3][C:4](=[O:5])[H:6]>>[C:1][C:2][O:3].[C:4](=[O:5])[H:6],1.2104676013299998
[H:1][C:2]#[C:3][C:4]#[C:5][H:6]>>[C:4]#[C:5][H:6].[H:1][C:2]#[C:3],7.40266555862
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],2.79761597325
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7],3.45549387066
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15],2.97787148995
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][O:8][H:9]>>[H:1][C:2]#[C:3][C@@:4]1([H:5])[O:6][C:7]1[O:8][H:9],-0.1244429431389999
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.85923628451
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],3.5928083008
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],3.86126981057
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7].[C:8]([H:9])([H:10])[H:11],4.65793252297
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],3.27460021371
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]1[C:4][O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-0.201262798349
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.31960795213
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C:3]([H:4])=[C:11]([H:12])[H:13].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:14],2.96714892156
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-7.222217200580001
[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1>>[H:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9],2.79309670936
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],1.82017095289
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1],3.16772931885
[H:1][C:2]1[C:3]2[C@@:4]1([C:5]([H:6])([H:7])[H:8])[C@@:9]2([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C@:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14],1.77362031222
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([H:4])[H:5],2.71213417246
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])#[C:9][H:10].[H:1][C:2]=[C:11]([H:12])[H:13],2.39693112943
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],7.508792286539999
[H:1][C:2][O:3][C:4][C:9]([H:10])([H:11])[H:12].[O:5]=[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.6712090111500002
